US07186729B2
Step 4: 1-(4-Chloro-phenyl)-piperazine-2-carboxylic acid methyl ester
A solution of 4-(4-chloro-phenyl)-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (0.4 g, 1.13 mmol) in dichloromethane (5.0 mL) cooled at 0° C. was treated with trifluoroacetic acid (20%) and warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and free based with 10% aqueous sodium bicarbonate. The combined organics were dried over sodium sulfate and concentrated. The product was used without any further purification. ESI-MS m/z: 254 (M+1), UV retention time: 1.01 min.

reactant | 4-(4-chloro-phenyl)-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 1.13 mmol, 0.4 g | COC(=O)C1CN(CCN1C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C | C17H23ClN2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | 1-(4-Chloro-phenyl)-piperazine-2-carboxylic acid methyl ester | COC(=O)C1N(CCNC1)C1=CC=C(C=C1)Cl | C12H15ClN2O2
